US07982036B2
Synthesis of (6-chloro-pyrimidin-4-yl)-(3-bromo-phenyl)-amine:
A solution of 4,6-dichloropyrimidine (5 g, 33.6 mmol), 3-bromoaniline (5.8 g, 33.7 mmol) and N,N-diisopropylethylamine (DIEA) (5.2 g, 40.2 mmol) in ethanol (40 mL) was heated at 80° C. for 16 hr. The reaction mixture was cooled to ambient temperature, diethylether (35 mL) was added while the mixture was being stirred. The product was precipitated, filtered, washed with water and dried to afford 5.9 g (62% yield) of a light colored solid. MS (m/z): MH+=284, 286, 288.

reactant | 4,6-dichloropyrimidine | 33.6 mmol, 5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-bromoaniline | 33.7 mmol, 5.8 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | N,N-diisopropylethylamine | 40.2 mmol, 5.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethylether | 35 mL | C(C)OCC | C4H10O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (6-chloro-pyrimidin-4-yl)-(3-bromo-phenyl)-amine | 5.9 g, 62% yield | ClC1=CC(=NC=N1)NC1=CC(=CC=C1)Br | C10H7BrClN3
